US09278944B2
A solution of 1-(3-methoxypropyl)-1H-pyrrole (3.92 g), ethyl 3-dimethylamino-2-(dimethylaminomethyleneamino)acrylate (7.20 g) (ref. Liebigs Ann. Chem. 1980, 344-357) and trifluoroacetic acid (8.33 mL) in acetic acid (32 mL) was stirred at room temperature for 18 hours, and then heated to reflux for 3 hours. After cooling, the reaction solution was concentrated under reduced pressure. To the resulting residue was added aqueous saturated sodium hydrogen carbonate solution under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1→AcOEt) to give ethyl 1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate [REx(105.2)] (4.79 g) as a brown oil.

reactant | 1-(3-methoxypropyl)-1H-pyrrole | 3.92 g | COCCCN1C=CC=C1 | C8H13NO
reactant | ethyl 3-dimethylamino-2-(dimethylaminomethyleneamino)acrylate | 7.20 g | CN(C=C(C(=O)OCC)N=CN(C)C)C | C10H19N3O2
reactant | trifluoroacetic acid | 8.33 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
product | ethyl 1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 4.79 g | COCCCN1C=CC=2C=NC(=CC21)C(=O)OCC | C14H18N2O3
